US09107916B2
A. 2-[5-[[4-chloro-3-(trifluoromethyl)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-chloro-3-(trifluoromethyl)phenyl]methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.25 (2H, s), 5.76 (1H, d, J=1.6 Hz), 7.42 (1H, dd, J=1.6, 5.2 Hz), 7.54 (2H, s), 7.58 (1H, d, J=2.0 Hz), 7.89 (1H, s), 8.00 (1H, s), 8.06 (1H, s), 8.69 (1H, d, J=4.8 Hz). [M+H] Calc'd for C17H10ClF3N4O, 379. Found, 379.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-chloro-3-(trifluoromethyl)phenyl]methanol | ClC1=C(C=C(C=C1)CO)C(F)(F)F | C8H6ClF3O
product | 2-[5-[[4-chloro-3-(trifluoromethyl)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=C(C=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)C(F)(F)F | C17H10ClF3N4O
